* File: inv.pex.sp.pex
* Created: Fri Oct 11 03:43:08 2024
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_INV%GND! 1 6 14 20
r24 11 14 0.227392
r25 9 16 0.0195813
r26 9 11 0.0309468
r27 6 20 10
r28 4 16 0.027414
r29 4 6 1.17068
r30 1 11 30
.ends

.subckt PM_INV%OUT 3 8 15 16 19 21 22
r35 16 25 0.122752
r36 16 24 0.12408
r37 15 19 0.0539159
r38 15 16 1.7
r39 11 21 30
r40 8 11 0.77624
r41 8 25 0.783041
r42 8 21 10
r43 3 24 1.38732
r44 3 22 15
.ends

.subckt PM_INV%VDD! 1 6 17 22
r24 14 17 0.270787
r25 12 19 0.0184353
r26 12 14 0.0460337
r27 10 22 30
r28 6 10 0.782069
r29 6 22 10
r30 4 19 0.0291677
r31 4 10 0.560564
r32 1 14 30
.ends

.subckt PM_INV%IN 6 10 12 14 15 18 21 23
r43 21 24 7.10029
r44 21 23 7.05593
r45 15 21 25
r46 14 18 0.0575562
r47 14 15 1.7
r48 6 12 87.874
r49 6 24 18.6488
r50 3 10 82.9921
r51 3 23 18.9417
.ends

