* File: NAND2.pex.sp.pex
* Created: Tue Oct 29 23:04:04 2024
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NAND2%OUT 3 6 7 12 18 19 21 23 26 28 30
c53 28 0 0.00421173f
c54 26 0 0.00736109f
c55 21 0 0.00599744f
c56 18 0 0.0059464f
r57 23 26 1.7
r58 20 26 0.0854933
r59 20 21 0.0775449
r60 18 26 0.0942369
r61 18 19 0.0775449
r62 15 28 30
r63 12 15 0.781098
r64 12 21 0.930711
r65 12 28 10
r66 8 19 0.14767
r67 6 8 0.0479332
r68 6 7 0.735413
r69 3 30 10
r70 1 7 0.0479332
r71 1 3 0.952085
.ends

.subckt PM_NAND2%GND! 1 6 11 14 19
r30 9 14 0.0175382
r31 9 11 0.210537
r32 6 19 10
r33 4 14 0.0306086
r34 4 6 1.2348
r35 1 14 30
.ends

.subckt PM_NAND2%VDD! 1 6 12 16 24 32 33
c31 1 0 1.20129e-19
r32 22 29 0.0175382
r33 22 24 0.224753
r34 20 33 30
r35 16 20 0.781098
r36 16 33 10
r37 14 29 0.0306086
r38 14 20 0.785955
r39 13 27 0.0175382
r40 12 29 0.0175382
r41 12 13 0.855686
r42 10 32 30
r43 6 10 0.781098
r44 6 32 10
r45 4 27 0.0306086
r46 4 10 0.785955
r47 1 27 15
.ends

.subckt PM_NAND2%VA 6 9 10 12 14 16 18 21 24
c38 24 0 0.00352531f
c39 21 0 0.00182653f
c40 12 0 0.0027029f
c41 9 0 0.0027029f
r42 21 24 25
r43 18 21 1.7
r44 11 24 1.81159
r45 11 12 6.43312
r46 9 24 2.0927
r47 9 10 6.43312
r48 6 16 92.2314
r49 6 12 32.281
r50 3 14 87.1074
r51 3 10 34.0231
.ends

.subckt PM_NAND2%VB 6 9 10 12 14 16 19 21 24
c34 24 0 0.00357733f
c35 21 0 8.31404e-20
c36 19 0 0.0018401f
c37 12 0 0.0028159f
c38 9 0 0.0028159f
r39 19 24 25
r40 19 21 1.7
r41 11 24 1.76259
r42 11 12 6.47011
r43 9 24 2.0409
r44 9 10 6.47011
r45 6 16 92.2314
r46 6 12 32.281
r47 3 14 87.1074
r48 3 10 34.0231
.ends

