* File: NOR2.pex.sp.pex
* Created: Wed Oct 30 00:02:58 2024
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NOR2%GND! 1 6 9 13 18 27 28
c36 28 0 0.0028625f
c37 13 0 4.92703e-19
c38 1 0 1.04651e-19
r39 16 23 0.0175382
r40 16 18 0.298542
r41 13 28 10
r42 11 23 0.0306086
r43 11 13 1.2348
r44 10 21 0.0175382
r45 9 23 0.0175382
r46 9 10 0.849593
r47 6 27 10
r48 4 21 0.0306086
r49 4 6 1.2348
r50 1 21 15
.ends

.subckt PM_NOR2%OUT 3 6 7 12 18 19 21 23 26 28 29
c45 29 0 1.04651e-19
c46 28 0 0.0040916f
c47 26 0 0.0086783f
c48 21 0 0.00653309f
c49 18 0 0.00635097f
r50 23 26 1.7
r51 20 26 0.0854933
r52 20 21 0.0775449
r53 18 26 0.0942369
r54 18 19 0.0775449
r55 15 28 30
r56 12 15 0.781098
r57 12 21 0.930711
r58 12 28 10
r59 8 19 0.14767
r60 6 8 0.0479332
r61 6 7 0.89327
r62 3 29 10
r63 1 7 0.0479332
r64 1 3 0.952085
.ends

.subckt PM_NOR2%VDD! 1 6 14 21
r26 12 17 0.0175382
r27 12 14 1.13798
r28 10 21 30
r29 6 10 0.781098
r30 6 21 10
r31 4 17 0.0306086
r32 4 10 0.785955
r33 1 17 30
.ends

.subckt PM_NOR2%VA 6 9 10 12 14 16 18 21 24
r40 21 24 25
r41 18 21 1.7
r42 11 24 1.81159
r43 11 12 6.43312
r44 9 24 2.0927
r45 9 10 6.43312
r46 6 16 92.2314
r47 6 12 32.281
r48 3 14 87.1074
r49 3 10 34.0231
.ends

.subckt PM_NOR2%VB 6 9 10 12 14 16 18 21 24
c53 24 0 0.00211362f
c54 21 0 0.00156439f
c55 12 0 0.00176426f
c56 9 0 0.00176426f
r57 21 24 25
r58 18 21 1.7
r59 11 24 1.76259
r60 11 12 6.47011
r61 9 24 2.0409
r62 9 10 6.47011
r63 6 16 92.2314
r64 6 12 32.281
r65 3 14 87.1074
r66 3 10 34.0231
.ends

