* File: NOR3.pex.sp.pex
* Created: Fri Nov  8 19:34:01 2024
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NOR3%OUT 3 6 7 10 13 19 25 26 27 29 31 34 36 37 38
c65 38 0 1.04651e-19
c66 36 0 0.0040916f
c67 34 0 0.00825084f
c68 29 0 0.00636958f
c69 26 0 0.00618746f
r70 31 34 1.7
r71 28 34 0.0854933
r72 28 29 0.0775449
r73 26 34 0.0942369
r74 26 27 0.0775449
r75 22 36 30
r76 19 22 0.781098
r77 19 29 0.930711
r78 19 36 10
r79 15 27 0.14767
r80 14 25 0.0363272
r81 13 15 0.0479332
r82 13 14 0.744183
r83 10 38 10
r84 8 25 0.00944082
r85 8 10 0.952085
r86 6 25 0.0363272
r87 6 7 1.58146
r88 3 37 10
r89 1 7 0.0479332
r90 1 3 0.952085
.ends

.subckt PM_NOR3%GND! 1 6 9 13 18 21 27 29
c51 29 0 0.0028625f
c52 13 0 4.92703e-19
c53 1 0 1.04651e-19
r54 16 23 0.0175382
r55 16 18 0.298542
r56 13 29 10
r57 11 23 0.0306086
r58 11 13 1.2348
r59 10 21 0.0175382
r60 9 23 0.0175382
r61 9 10 0.769034
r62 6 27 10
r63 4 21 0.0306086
r64 4 6 1.2348
r65 1 21 15
.ends

.subckt PM_NOR3%VDD! 1 6 14 21
r32 12 17 0.0175382
r33 12 14 1.40538
r34 10 21 30
r35 6 10 0.781098
r36 6 21 10
r37 4 17 0.0306086
r38 4 10 0.785955
r39 1 17 30
.ends

.subckt PM_NOR3%VA 6 9 10 12 14 16 18 21 24
r43 21 24 25
r44 18 21 1.7
r45 11 24 1.81159
r46 11 12 6.43312
r47 9 24 2.0927
r48 9 10 6.43312
r49 6 16 92.2314
r50 6 12 32.281
r51 3 14 87.1074
r52 3 10 34.0231
.ends

.subckt PM_NOR3%VB 6 9 10 12 14 16 18 21 24
r57 21 24 25
r58 18 21 1.7
r59 11 24 1.76259
r60 11 12 6.47011
r61 9 24 2.0409
r62 9 10 6.47011
r63 6 16 92.2314
r64 6 12 32.281
r65 3 14 87.1074
r66 3 10 34.0231
.ends

.subckt PM_NOR3%VC 6 9 10 12 14 16 18 21 24
c54 24 0 0.00351091f
c55 21 0 0.00182879f
c56 12 0 0.0027624f
c57 9 0 0.0027624f
r58 21 24 25
r59 18 21 1.7
r60 11 24 1.76259
r61 11 12 6.47011
r62 9 24 2.0409
r63 9 10 6.47011
r64 6 16 92.2314
r65 6 12 32.281
r66 3 14 87.1074
r67 3 10 34.0231
.ends

