* File: OAI12.pex.sp.pex
* Created: Sat Nov  2 21:52:30 2024
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_OAI12%OUT 3 6 7 12 18 19 21 23 26 28 30
c56 28 0 0.00421173f
c57 26 0 0.00740572f
c58 21 0 0.00598248f
c59 18 0 0.00593145f
r60 23 26 1.7
r61 20 26 0.0854933
r62 20 21 0.0775449
r63 18 26 0.0942369
r64 18 19 0.0775449
r65 15 28 30
r66 12 15 0.781098
r67 12 21 0.930711
r68 12 28 10
r69 8 19 0.14767
r70 6 8 0.0479332
r71 6 7 0.730401
r72 3 30 10
r73 1 7 0.0479332
r74 1 3 0.952085
.ends

.subckt PM_OAI12%NET23 3 6 7 10 13 15
c38 13 0 0.00316921f
r39 10 15 10
r40 8 10 0.952085
r41 6 8 0.0479332
r42 6 7 1.52414
r43 3 13 10
r44 1 7 0.0479332
r45 1 3 0.952085
.ends

.subckt PM_OAI12%GND! 1 6 11 14 19
c50 1 0 1.5958e-19
r51 9 14 0.0175382
r52 9 11 0.557144
r53 6 19 10
r54 4 14 0.0306086
r55 4 6 1.2348
r56 1 14 30
.ends

.subckt PM_OAI12%VDD! 1 6 12 16 24 31 32
c38 1 0 1.20129e-19
r39 22 28 0.0175382
r40 22 24 0.0755164
r41 20 32 30
r42 16 20 0.781098
r43 16 32 10
r44 14 28 0.0306086
r45 14 20 0.785955
r46 13 26 0.0175382
r47 12 28 0.0175382
r48 12 13 1.1962
r49 10 31 30
r50 6 10 0.781098
r51 6 31 10
r52 4 26 0.0306086
r53 4 10 0.785955
r54 1 26 30
.ends

.subckt PM_OAI12%VA 6 9 10 12 14 16 18 21 24
c43 24 0 0.00356515f
c44 21 0 0.00183783f
c45 18 0 8.22908e-20
c46 12 0 0.00280508f
c47 9 0 0.00280508f
r48 21 24 25
r49 18 21 1.7
r50 11 24 1.76259
r51 11 12 6.47011
r52 9 24 2.0409
r53 9 10 6.47011
r54 6 16 92.2314
r55 6 12 32.281
r56 3 14 87.1074
r57 3 10 34.0231
.ends

.subckt PM_OAI12%VC 6 9 10 12 14 16 18 21 24
c53 24 0 0.00364717f
c54 21 0 0.00185149f
c55 18 0 8.45857e-20
c56 12 0 0.0028709f
c57 9 0 0.0028709f
r58 21 24 25
r59 18 21 1.7
r60 11 24 1.76259
r61 11 12 6.47011
r62 9 24 2.0409
r63 9 10 6.47011
r64 6 16 92.2314
r65 6 12 32.281
r66 3 14 87.1074
r67 3 10 34.0231
.ends

.subckt PM_OAI12%VB 6 9 10 12 14 16 18 21 24
r42 21 24 25
r43 18 21 1.7
r44 11 24 1.76259
r45 11 12 6.47011
r46 9 24 2.0409
r47 9 10 6.47011
r48 6 16 92.2314
r49 6 12 32.281
r50 3 14 87.1074
r51 3 10 34.0231
.ends

