* File: OAI22.pex.sp.pex
* Created: Sat Nov  2 23:04:56 2024
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_OAI22%NET22 3 9 10 14 19 20 23 29 30 32
c53 30 0 0.00300963f
r54 27 32 30
r55 23 27 0.781098
r56 23 32 10
r57 21 27 0.331287
r58 19 21 0.0479332
r59 19 20 1.54774
r60 17 30 30
r61 14 17 0.781098
r62 14 30 10
r63 12 20 0.0479332
r64 12 17 0.42941
r65 11 14 0.61594
r66 9 11 0.0479332
r67 9 10 1.62242
r68 6 29 30
r69 3 6 0.781098
r70 3 29 10
r71 1 10 0.0479332
r72 1 3 0.61594
.ends

.subckt PM_OAI22%OUT 3 6 7 12 18 19 21 23 26 28 30
c58 30 0 1.04651e-19
c59 28 0 0.00421173f
c60 26 0 0.00753607f
c61 21 0 0.005993f
c62 18 0 0.00594197f
r63 23 26 1.7
r64 20 26 0.0854933
r65 20 21 0.0775449
r66 18 26 0.0942369
r67 18 19 0.0775449
r68 15 28 30
r69 12 15 0.781098
r70 12 21 0.930711
r71 12 28 10
r72 8 19 0.14767
r73 6 8 0.0479332
r74 6 7 0.727896
r75 3 30 10
r76 1 7 0.0479332
r77 1 3 0.952085
.ends

.subckt PM_OAI22%GND! 1 6 11 14 19
c59 1 0 1.04651e-19
r60 9 14 0.0175382
r61 9 11 0.557821
r62 6 19 10
r63 4 14 0.0306086
r64 4 6 1.2348
r65 1 14 30
.ends

.subckt PM_OAI22%VDD! 1 6 12 16 24 31 32
c45 1 0 1.20129e-19
r46 22 28 0.0175382
r47 22 24 0.0746773
r48 20 32 30
r49 16 20 0.781098
r50 16 32 10
r51 14 28 0.0306086
r52 14 20 0.785955
r53 13 26 0.0175382
r54 12 28 0.0175382
r55 12 13 1.56041
r56 10 31 30
r57 6 10 0.781098
r58 6 31 10
r59 4 26 0.0306086
r60 4 10 0.785955
r61 1 26 15
.ends

.subckt PM_OAI22%VA 6 9 10 12 14 16 18 21 24
r41 21 24 25
r42 18 21 1.7
r43 11 24 1.76259
r44 11 12 6.47011
r45 9 24 2.0409
r46 9 10 6.47011
r47 6 16 92.2314
r48 6 12 32.281
r49 3 14 87.1074
r50 3 10 34.0231
.ends

.subckt PM_OAI22%VB 6 9 10 12 14 16 18 21 24
c57 24 0 0.00356515f
c58 21 0 0.00183783f
c59 18 0 8.22908e-20
c60 12 0 0.00280508f
c61 9 0 0.00280508f
r62 21 24 25
r63 18 21 1.7
r64 11 24 1.76259
r65 11 12 6.47011
r66 9 24 2.0409
r67 9 10 6.47011
r68 6 16 92.2314
r69 6 12 32.281
r70 3 14 87.1074
r71 3 10 34.0231
.ends

.subckt PM_OAI22%VD 6 9 10 12 14 16 18 21 24
c55 24 0 0.00354993f
c56 21 0 0.00194042f
c57 18 0 8.25726e-20
c58 12 0 0.00279432f
c59 9 0 0.00279432f
r60 21 24 25
r61 18 21 1.7
r62 11 24 1.76259
r63 11 12 6.47011
r64 9 24 2.0409
r65 9 10 6.47011
r66 6 16 92.2314
r67 6 12 32.281
r68 3 14 87.1074
r69 3 10 34.0231
.ends

.subckt PM_OAI22%VC 6 9 10 12 14 16 18 21 24
r44 21 24 25
r45 18 21 1.7
r46 11 24 1.76259
r47 11 12 6.47011
r48 9 24 2.0409
r49 9 10 6.47011
r50 6 16 92.2314
r51 6 12 32.281
r52 3 14 87.1074
r53 3 10 34.0231
.ends

